US04492692
To a stirred mixture of 4-formyl-2-fluoro-1-triphenylmethylimidazole (0.356 g.) and hydroxylamine hydrochloride (0.035 g.) in ethanol (4 ml.) was added pyridine (0.2 ml.). Stirring was continued at ambient temperature for 18 hours and the precipitated solid was filtered to give 2-fluoro-4-hydroxyiminomethyl-1-triphenylmethylimidazole, m.p. 147°-149°. Further amounts of product could be isolated from the mother liquors.

reactant | 4-formyl-2-fluoro-1-triphenylmethylimidazole | 0.356 g | C(=O)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C23H17FN2O
reactant | hydroxylamine hydrochloride | 0.035 g | Cl.NO
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-fluoro-4-hydroxyiminomethyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)C=NO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18FN3O
